US04028344
Preparation of N-[1-(t-Butylazo)cyclohexyl]-N',N'-diethylthiourea
To 9.12 grams (.0395 moles) of 1-t-butylazo-1-isothiocyanatocyclohexane cooled to 10° C. and stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added 2.89 grams (.0395 moles) of diethylamine. The reaction mixture was stirred for 3 hours at room temperature, adding pentane periodically to keep the viscosity low. The pentane was stripped from the reaction mixture to leave a yellow viscous oil weighing 11.4 grams (95% crude yield). The infrared spectrum of the product had a strong broad band at 1520 cm-1 and a sharp NH band at 3300 cm-1 and the isothiocyanate band at 2040 cm-1 was very weak indicating there was a trace of the starting material still present.

reactant | 1-t-butylazo-1-isothiocyanatocyclohexane | .0395 moles, 9.12 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=S | C11H19N3S
reactant | diethylamine | .0395 moles, 2.89 grams | C(C)NCC | C4H11N
reactant | isothiocyanate | [N-]=C=S
solvent | pentane | CCCCC | C5H12
product | N-[1-(t-Butylazo)cyclohexyl]-N',N'-diethylthiourea | C(C)(C)(C)N=NC1(CCCCC1)NC(=S)N(CC)CC | C15H30N4S
